US06140345
To a solution consisting of 2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethylamine (6.1 g, 23.2 mmol) in DMF (230 ml) was added 4-fluorophthalic anhydride (4.2 g, 25.5 mmol) at room temperature, under nitrogen. The reaction mixture was warmed at 80° C. for 2.5 hours at which time it was allowed to cool to room temperature. The DMF was removed under reduced pressure (<0.5 mmHg, 55° C.) to give a brown oil which was dissolved into DCM/MeOH. Purification via flash column chromatography (silica gel, 2% MeOH/DCM) afforded 3.6 g of 4-fluoro-N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1yl)-1-piperidinyl]ethyl]phthalimide. To a solution of the latter compound (3.6 g 8.8 mmol) in anhydrous THF (100 ml) was added LAH (18.4 ml of a 1.0M solution in THF, 18.4 mmol) at room temperature, under nitrogen. The reaction mixture was warmed to reflux for 4 hours. Upon cooling to room temperature, the reaction was quenched with water (1.5 ml, dropwise). The precipitated salts were removed via filtration and washed with DCM. The combined filtrates were concentrated to give a solid which was purified via flash column chromatography (silica gel, 0-8% MeOH/DCM). The product containing fractions were concentrated to give 2.4 g product as an off-white solid. The dimaleate salt was prepared in methanol using 2.4 eq. of maleic acid. The white precipitate was collected via filtration and washed with methanol, m.p. 186-188° C.

reactant | 2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethylamine | 23.2 mmol, 6.1 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCN | C14H19FN4
reactant | 4-fluorophthalic anhydride | 25.5 mmol, 4.2 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | DMF | 230 ml | CN(C)C=O | C3H7NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
